US05348944
Dissolve 1-[N-benzyloxycarbonyl-(S)-alanyl]hexhydrofuro[3,4-b]pyrrole-2(S)-carboxylic acid in methanol. Add 10% palladium-on-charcoal and hydrogenate the mixture at atmospheric pressure. Filter the mixture and concentrate in vacuo to give 1-[(S)-alanyl]hexahydrofuro[3,4-b]pyrrole-2(S)-carboxylic acid.

reactant | 1-[N-benzyloxycarbonyl-(S)-alanyl]hexhydrofuro[3,4-b]pyrrole-2(S)-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1C2C(C[C@H]1C(=O)O)COC2 | C18H22N2O6
solvent | methanol | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 1-[(S)-alanyl]hexahydrofuro[3,4-b]pyrrole-2(S)-carboxylic acid | N[C@@H](C)C(=O)N1C2C(C[C@H]1C(=O)O)COC2 | C10H16N2O4
